US08084485B2
To a solution of tert-butyl (1S,3S)-3-(benzyloxymethyl)-4-methyl-1-((R)-oxiran-2-yl)pentylcarbamate (500 mg, 1.38 mmol) in MeOH (5 mL), was added NH4OH (5 mL). The mixture was stirred at rt for 18 h. The mixture was concentrated in vacuo to give tert-butyl (2S,3S,5S)-1-amino-5-(benzyloxymethyl)-2-hydroxy-6-methylheptan-3-ylcarbamate (510 mg, 97.3%). 1H NMR (400 MHz, CD3OD): 0.86 (m, 6H), 1.41 (s, 12H), 1.82 (brs, 1H), 2.50 (m, 1H), 3.42 (m, 2H), 3.61 (m, 2H), 3.71 (m, 3H), 3.90 (m, 4H), 6.61 (m, 1H), 7.31 (m, 5H), 7.71 (m, 1H); MS: 381 (M++1)

reactant | tert-butyl (1S,3S)-3-(benzyloxymethyl)-4-methyl-1-((R)-oxiran-2-yl)pentylcarbamate | 1.38 mmol, 500 mg | C(C1=CC=CC=C1)OC[C@@H](C[C@@H]([C@H]1OC1)NC(OC(C)(C)C)=O)C(C)C | C21H33NO4
reactant | NH4OH | 5 mL | [NH4+].[OH-]
solvent | MeOH | 5 mL | CO | CH4O
product | tert-butyl (2S,3S,5S)-1-amino-5-(benzyloxymethyl)-2-hydroxy-6-methylheptan-3-ylcarbamate | 510 mg, 97.3% | NC[C@@H]([C@H](C[C@@H](C(C)C)COCC1=CC=CC=C1)NC(OC(C)(C)C)=O)O | C21H36N2O4
